US07129242B2
2-{4-[(4-{[4-(4-Chlorophenyl)pyrimidin-2-yl]amino}phenyl) carbonyl]piperazinyl}acetic acid (0.200 g, 0.44 mmol) was dissolved in DMF then stirred for 15 minutes in ice-brine solution, then the HOBT (0.072 g, 0.53 mmol] then EDCI (0.102 g, 0.53 mmol) were added and stirred for another 30 minutes. Ethylamine (0.030 mL, 0.53 mmol) was added and the reaction was left to stir at room temp overnight. The reaction was quenched with 10 mL of water and a precipitate formed. The precipitate was colleted by filtration, and purified by preparative HPLC to yield 2-{4-[(4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl)carbonyl]piperazinyl}N-ethylacetamide: HPLC Retention time; 9.508 min.(Method B) M+1; 479.2

reactant | 2-{4-[(4-{[4-(4-Chlorophenyl)pyrimidin-2-yl]amino}phenyl) carbonyl]piperazinyl}acetic acid | 0.44 mmol, 0.200 g | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC(=O)O | C23H22ClN5O3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.53 mmol, 0.102 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Ethylamine | 0.53 mmol, 0.030 mL | C(C)N | C2H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{4-[(4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl)carbonyl]piperazinyl}N-ethylacetamide | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC(=O)NCC | C25H27ClN6O2
